US07767675B2
Step 4. 2-cyclopropyl-5-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]isoindolin-1-one
A mixture of 5-(2-aminopyrimidin-5-yl)-2-cyclopropylisoindolin-1-one (20 mg, 0.075 mmol) and chloro(1-quinolin-6-ylcyclopropyl)acetaldehyde (18 mg, 0.075 mmol) in isopropyl alcohol (0.5 mL) was stirred at 90° C. overnight. The reaction mixture was purified by RP-HPLC (pH 10) to afford the desired product. LCMS: (M+H)=458.1.

reactant | 5-(2-aminopyrimidin-5-yl)-2-cyclopropylisoindolin-1-one | 0.075 mmol, 20 mg | NC1=NC=C(C=N1)C=1C=C2CN(C(C2=CC1)=O)C1CC1 | C15H14N4O
reactant | chloro(1-quinolin-6-ylcyclopropyl)acetaldehyde | 0.075 mmol, 18 mg | ClC(C=O)C1(CC1)C=1C=C2C=CC=NC2=CC1 | C14H12ClNO
solvent | isopropyl alcohol | 0.5 mL | C(C)(C)O | C3H8O
product | 2-cyclopropyl-5-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]isoindolin-1-one | C1(CC1)N1C(C2=CC=C(C=C2C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2)=O | C29H23N5O
